US08242145B2
Step 3: [3-(4-Bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid methyl ester
To [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester (4.8 g, 13.7 mmol) in MeOH (50 mL) was added sodium borohydride (0.78 g, 20.6 mmol), and the reaction was stirred at room temperature for 5 minutes. The mixture was worked-up with H2O and EtOAc, and the crude material was purified by silica gel chromatography to give the desired product as a colorless oil (3 g).

reactant | [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester | 13.7 mmol, 4.8 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C16H13BrO4
reactant | sodium borohydride | 20.6 mmol, 0.78 g | [BH4-].[Na+]
reactant | H2O | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 50 mL | CO | CH4O
product | [3-(4-Bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid methyl ester | 3 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CO)=O | C16H15BrO4
